US05372931
Into a 500 ml round bottom flask (fitted with a magnetic stirrer), a 50:50 mixture of water:ethanol was combined with 4-amino1-naphthol (20 g, 125 mmole) until the solid was completely dissolved. The solution was warmed to boiling, and to it was added acetic anhydride (14 g) and the resulting solution was stirred for 1 hour. Upon cooling, crystals of N-(4-hydroxy-1-naphthyl)acetamide (20 g, 79% yield) formed.

reactant | water | O | H2O
reactant | 4-amino1-naphthol | 125 mmole, 20 g | NC1=CC=C(C2=CC=CC=C12)O | C10H9NO
reactant | acetic anhydride | 14 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | N-(4-hydroxy-1-naphthyl)acetamide | 20 g, 79% yield | OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C12H11NO2
